US07601716B2
1-Benzyl-7-(4-methanesulfonyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (46 mg) was reacted with 4-(methanesulfonyl)phenyl boronic acid as in General Procedure 4B to give the title compound as a yellow solid (43% yield). LCMS: m/z=394.22 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.08 (3H, s), 4.54 (2H, s), 5.28 (2H, s), 7.30 (3H, m), 7.39 (3H, m), 7.45 (2H, d, J=8.3 Hz), 7.78 (1H, d, J=1.5 Hz), 7.94 (2H, d, J=8.3 Hz).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 46 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 4-(methanesulfonyl)phenyl boronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | 1-Benzyl-7-(4-methanesulfonyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 43% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C2=CC=C(C=C2)S(=O)(=O)C | C21H19N3O3S
